US08372866B2
5b) 2-[(4-(imidazol-1-yl)-phenyl]-3-benzyloxy-6-[(1-iminoethyl)amino]-4H-1-benzopyran-4-one
2-[(4-(imidazol-1-yl)-phenyl]-3-benzyloxy-6-amino-4H-1-benzopyran-4-one (3 g; 6.22 mmol) was suspended in acetonitrile (50 mL) and cooled at 0° C. HCl was bubbled into the solution upon saturation. The reaction was then stirred for 4 hours at r.t., upon completion, H2O (20 mL) was added and the acetonitrile removed under vacuum. The solution was then brought to pH=9 with NaOH 2N, the precipitate was filtered off and dried to give the titled compound as a bright yellow solid. Yield: 73%. TLC: (9/1 Chloroform/Methanol) Rf: 0.6.

reactant | (4-(imidazol-1-yl)-phenyl]-3-benzyloxy-6-amino-4H-1-benzopyran-4-one | 6.22 mmol, 3 g | N1(C=NC=C1)C1=CC=C(C=C1)C=1OC2=C(C(C1OCC1=CC=CC=C1)=O)C=C(C=C2)N | C25H19N3O3
reactant | acetonitrile | 50 mL | C(C)#N | C2H3N
product | (4-(imidazol-1-yl)-phenyl]-3-benzyloxy-6-[(1-iminoethyl)amino]-4H-1-benzopyran-4-one | Yield: 73% | N1(C=NC=C1)C1=CC=C(C=C1)C=1OC2=C(C(C1OCC1=CC=CC=C1)=O)C=C(C=C2)NC(C)=N | C27H22N4O3
